US07247628B2
A mixture of 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester I-7b (45 g, 108.8 mmol) and p-toluenesulfonic acid monohydrate (2.1 g, 10.8 mmol) in toluene (540 ml) was heated to reflux overnight. The reaction mixture was cooled and the solvent removed in vacuo. The crude residue was taken up in methylene chloride and washed with water, aqueous sodium bicarbonate, and brine. After drying over anhydrous magnesium sulfate and concentrating, the residue was purified by plug filtration on 600 g silica gel using ethyl acetate/hexanes (20:80) to give pure 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester I-7c (30 g, 69.7%).

reactant | 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-4-hydroxy-4,5-dihydro-1H-imidazole-4-carboxylic acid ethyl ester | 108.8 mmol, 45 g | C(C)OC(=O)C1(N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)O | C18H15Cl3N2O3
reactant | p-toluenesulfonic acid monohydrate | 10.8 mmol, 2.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 540 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 30 g, 69.7% | C(C)OC(=O)C=1N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl | C18H13Cl3N2O2
